US08293735B2
4-Iodo-6-trifluoromethyl-1H-indole
To a suspension of 6-trifluoromethyl-1H-indol-4-ylamine (10.7 g, 53.4 mmol) in HCl (aq., 15%, 240 mL) was added a solution of sodium nitrite (5.52 g, 80.1 mmol) in H2O (10 mL) slowly at 0° C. The reaction mixture was stirred at RT for 1 h before a solution of sodium tetrafluoroborate (23.5 g, 0.214 mol) in H2O (30 mL) was added. After stirring for 15 min, the resulting precipitate was collected by filtration and washed with a sodium tetrafluoroborate solution (aq., sat) before dissolving in acetonitrile (100 mL). This solution was added slowly to a suspension of sodium iodide (24.0 g, 0.160 mol) in acetonitrile (100 mL) and the mixture stirred at RT for 16 h. The reaction mixture was concentrated to 30% of the volume and partioned between EtOAc and H2O. The organic layer was isolated then washed in succession with sodium thiosulfate, H2O and brine, dried over Na2SO4 and evaporated to dryness. The resulting brown oil was purified by column chromatography to give the title compound (9.77 g, 59%).

reactant | 6-trifluoromethyl-1H-indol-4-ylamine | 53.4 mmol, 10.7 g | FC(C1=CC(=C2C=CNC2=C1)N)(F)F | C9H7F3N2
reactant | sodium nitrite | 80.1 mmol, 5.52 g | N(=O)[O-].[Na+]
reactant | sodium tetrafluoroborate | 0.214 mol, 23.5 g | F[B-](F)(F)F.[Na+]
reactant | sodium iodide | 0.160 mol, 24.0 g | [I-].[Na+]
solvent | HCl | 240 mL | Cl | ClH
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 30 mL | O | H2O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-Iodo-6-trifluoromethyl-1H-indole | 9.77 g, 59% | IC1=C2C=CNC2=CC(=C1)C(F)(F)F | C9H5F3IN
